US07208524B2
Method 2) To a stirred solution of 117 g of sodium[4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate in 1.17 L of water was added 56 g of 50% aqueous hydroxylamine solution at room temperature, and the mixture was stirred at 70° C. for 4 hours. To the reaction mixture was added dropwise 1 mol/L hydrochloric acid at room temperature, and the mixture was stirred at the same temperature over night. The obtained solid was collected by filtration to give 110 g of [4-[2-[2-hydroxy-5-(N-hydroxy-carbamimidoyl)benzenesulfonylamino]ethyl]-2′-methane-sulfonylbiphenyl-3-yloxy]acetic acid.

reactant | sodium[4-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate | 117 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)[O-])O.[Na+]
reactant | hydroxylamine | 56 g | NO | H3NO
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 1.17 L | O | H2O
product | [4-[2-[2-hydroxy-5-(N-hydroxy-carbamimidoyl)benzenesulfonylamino]ethyl]-2′-methane-sulfonylbiphenyl-3-yloxy]acetic acid | 110 g | OC1=C(C=C(C=C1)C(NO)=N)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)O | C24H25N3O9S2
